US07435837B2
Treatment of (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (11.2 g, 29.22 mmol) with 4-methylphenylboronic acid (5.96 g, 43.84 mmol), dichlorobis(tri-o-tolylphosphine)-palladium(II) (1.148 g, 1.46 mmol), and potassium carbonate (10.10 g, 73.07 mmol) generally according to the procedure described for Intermediate 37 afforded 9.8 g (85%) of (±)-[7-(4-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate a white solid. mp 145-147° C.; Anal. calcd. for C23H22O4S: C, 70.03; H, 5.62. Found: C, 69.91; H, 5.70.

reactant | (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 29.22 mmol, 11.2 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2Br | C16H15BrO4S
reactant | 4-methylphenylboronic acid | 43.84 mmol, 5.96 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | potassium carbonate | 73.07 mmol, 10.10 g | C([O-])([O-])=O.[K+].[K+]
catalyst | dichlorobis(tri-o-tolylphosphine)-palladium(II) | 1.46 mmol, 1.148 g | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | (±)-[7-(4-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 9.8 g, 85% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=CC=C(C=C2)C | C23H22O4S
